US06069156
To a solution of 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carbonitrile (70 mg) in a mixture of methanol (2 ml) and tetrahydrofuran (2 ml) was added sodium borohydride (21 mg) at 25° C. After stirred at 25° C. for 2 hours, the reaction mixture was partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was crystallized from diisopropyl ether to give 1-(2-chlorobenzyl)-3-(1-hydroxy-2-methylpropyl)-2-propylindole-6-carbonitrile (28 mg) as pale yellow crystals.

reactant | 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carbonitrile | 70 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C#N)C(C(C)C)=O)CCC)C=CC=C1 | C23H23ClN2O
reactant | sodium borohydride | 21 mg | [BH4-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(2-chlorobenzyl)-3-(1-hydroxy-2-methylpropyl)-2-propylindole-6-carbonitrile | 28 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C#N)C(C(C)C)O)CCC)C=CC=C1 | C23H25ClN2O
